US09428477B2
Production of 1-((E)-2-Decenoyl)piperidine-4-carboxylic acid ethyl ester [Compound 11]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and ethyl isonipecotate as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
product | 1-((E)-2-Decenoyl)piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C(\C=C\CCCCCCC)=O | C18H31NO3
